datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:8])([H:6])[H:7],78.7847
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28],26.7776
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:5])[H:4],20.669
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([C:6]([H:13])([H:14])[H:15])[H:12])[H:7],137.946
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:10])([H:8])[H:9],-4.97896
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:11],14.3511
[C:0](=[N:1][H:3])[H:2].[O:4]>>[C:0](#[N:1])[H:2].[H:3][O:4],-3.72376
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:29][O:30],199.11656
[O:0]=[C:1]([O:2][H:4])[H:3]>>[H:3][H:4].[O:0]=[C:1]=[O:2],203.00768
[C:5]([H:6])([H:7])[H:8].[S:0]([S:1][S:2][H:4])[H:3]>>[S:0][H:3].[S:1]([S:2][H:4])[C:5]([H:6])([H:7])[H:8],15.8992
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[H:12]>>[C:0](=[C:1]1[C:2]([H:8])([H:12])[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],9.388896
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:10])[H:4].[C:5](=[C:6][C:7]([H:11])([H:12])[H:13])([H:8])[H:9],90.3744
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0](=[C:1]([S:2][H:5])[H:10])([H:3])[H:4].[S:6]=[C:7]([S:8])[H:9],-23.8488
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]([C:12]([H:27])([H:28])[H:29])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[H:5],40.1664
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28])[H:11])[H:10],-3.93296
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],130.499
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]([H:9])[H:10]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:9])[H:5].[S:8][H:10],51.8816
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][H:7]>>[C:0]([C:1](=[S:2])[H:7])([H:3])([H:4])[H:5].[H:6],59.8312
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]#[N:9]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]#[N:9],-4.158896
